US06960601B2
Preparation of 1-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-(2-furyl)-4-piperidinol
BuLi (0.875 mL, 1.40 mmol, 1 M solution in THF) was added slowly to a solution of furan (0.106 mL, 1.45 mmol) in THF (2 mL) at −78° C., and the mixture was stirred at −78° C. for 1 h. A solution of 1-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-piperidinone (0.3 g, 0.68 mmol) in THF (1 mL) was added slowly. The mixture was stirred at −78° C. for 2 h and saturated NH4Cl (3 mL) and water added. The mixture was extracted with ethyl acetate (3×20 mL) and dried over MgSO4. The product (0.142 g, 61%) was isolated by column (ethyl acetate). MS (Electrospray) 482 (M)+; 1H NMR (300 MHz, CD2Cl2) δ .7.85 (s, 1H), 7.51-7.31 (m, 7H), 7.10-6.98 (m, 4H), 7.17-7.10 (m, 2H), 6.39 (s, 1H), 6.29 (s, 1H), 4.68 (br, 1H), 4.28 (br, 1H), 3.94 (br, 1H), 3.57 (br, 1H), 2.26-1.91 (m, 4H).

reactant | BuLi | 1.40 mmol, 1 M, 0.875 mL | [Li]CCCC
reactant | furan | 1.45 mmol, 0.106 mL | O1C=CC=C1 | C4H4O
reactant | 1-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-piperidinone | 0.68 mmol, 0.3 g | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N1CCC(CC1)=O)C1=CC=C(C=C1)Cl | C21H17Cl2N3O2
reactant | NH4Cl | 3 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-(2-furyl)-4-piperidinol | 0.142 g, 61% | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N1CCC(CC1)(O)C=1OC=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2N3O3
